2115-03-25 06:49:00 Physician Resident Progress Note
Chief Complaint: Fevers, right leg cellulitis
   24 Hour Events:
 ARTERIAL LINE - START [**2115-3-24**] 11:46 PM
 MULTI LUMEN - START [**2115-3-25**] 01:45 AM
   - BP persistently low with systolic in 80s at admission; received 2.5L
   of NS bolus in addition to 5L in ED, then BP rose to systolic 90s-100s.
   - Discussed goals of care with family --> Full Code
   - HR mainly in the 40s with paroxysms to 100s (sinus) on telemetry with
   no significant change in BP.
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Penicillins
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2115-3-24**] 08:56 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2115-3-24**] 11:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unable to obtain as patient is non-verbal
   Flowsheet Data as of  [**2115-3-25**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.4
   HR: 48 (43 - 98) bpm
   BP: 114/46(66) {90/34(52) - 115/49(70)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 13 (5 - 13)mmHg
   Total In:
                                                                  1,942 mL
                                                                  1,968 mL
   PO:
   TF:
                                                                      9 mL
                                                                     94 mL
   IVF:
                                                                  1,933 mL
                                                                  1,624 mL
   Blood products:
   Total out:
                                                                    367 mL
                                                                    246 mL
   Urine:
                                                                    367 mL
                                                                    246 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,575 mL
                                                                  1,722 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (2L)
   SpO2: 100%
   ABG: 7.29/40/128/20/-6
   Physical Examination
   General: nonverbal, responds to pain
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: CTAB anteriorly
   CV: Heart sounds essentially inaudible while patient
s overlying
   son[**Name (NI) 979**] respirations
   Abdomen: BS+, soft, NT, ND, no rebound tenderness or guarding, PEG
   present with exudate around tube, but without expanding erythema from
   PEG site
   Ext: RLE with erythema, warmth, swelling from thigh to groin; however,
   erythema does not track across groin to sacrum
   Sacrum: + 5cm x 4cm eschar
   Neuro: opens eyes, does not track
   Labs / Radiology
   93 K/uL
   10.6 g/dL
   166 mg/dL
   1.2 mg/dL
   20 mEq/L
   3.4 mEq/L
   42 mg/dL
   136 mEq/L
   161 mEq/L
   31.4 %
   10.9 K/uL
        [image002.jpg]
                             [**2115-3-24**]  05:45 PM
                             [**2115-3-25**]  01:11 AM
                             [**2115-3-25**]  04:09 AM
   WBC
   14.0
   10.9
   Hct
   35.5
   31.4
   Plt
   102
   93
   Cr
   1.5
   1.2
   TropT
   0.07
   0.05
   TCO2
   20
   Glucose
   475
   166
   Other labs: PT / PTT / INR:15.6/45.5/1.4, CK / CKMB /
   Troponin-T:939/6/0.05, ALT / AST:16/17, Alk Phos / T Bili:80/0.6,
   Differential-Neuts:83.5 %, Lymph:11.4 %, Mono:2.9 %, Eos:1.9 %,
   Fibrinogen:611 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:248
   IU/L, Ca++:6.6 mg/dL, Mg++:2.5 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   This is an 87 yo M s/p CVA, nonverbal, with HTN, type 2 DM who presents
   with fever to 106, likely secondary to extensive LE cellulitis.
   Additionally has hypernatremia and acute renal failure likely secondary
   to dehydration.
   #   Fever / Leukocytosis:
   Likely attributed to cellulitis. Patient with significant warmth and
   and erythema over right lower extremity at presentation. Now with
   decrease in WBC from 14 to 10.9 and has been afebrile following
   admission. Despite cellulitis being most likely cause of fever and
   leukocytosis, pneumonia (given chest CT) and peri-PEG infection (given
   purulent drainage around PEG). Still should rule out DVT as cause of
   fever and erythema of RLE.
   - Continue Vanc, cefepime, levofloxacin
   - Follow-up blood cultures
   - Follow-up wound cultures from PEG site
   - Follow-up doppler RLE
   #  Hypotension / Bradycardia:
   Hypotension likely secondary to poor PO intake over several weeks in
   addition to sepsis from infection (likely cellulitis). Does not appear
   to be linked to bradycardia (baseline HR in low 50s) at this time;
   however, will continue to monitor.
   - IVF bolus as needed
   - Hold antihypertensives (lisinopril, amlodipine, flomax) and baclofen
   #  Hypernatremia:
   Significant hypernatremia likely reflects ongoing infection and poor PO
   intake over the course of several days to week. Initially received NS
   for rehydration. Now that pressures are maintained without need for
   frequent boluses, will hold on further IVF and manage hypernatremia
   with free water via PEG.
   - Free water flushes through PEG
   - Q8H sodium check
   #  [**Last Name (un) **]:
   Creatinine rose after getting 5L NS in ED and in MICU. Has fallen
   slightly to 1.1 upon 0900 labs this AM.  Likely from profound
   dehydration and possible sepsis in setting of cellulitis.
   - Follow-up Cr with PM lytes and ongoing hydration via PEG
   # Hyperglycemia:
   Patient is a type 2 diabetic.  No evidence of DKA.  Likely elevated in
   setting of infection.
   - Lantus + HISS and uptitrate doses as needed. Will set lantus at 14 U
   tonight to cover increased tube feeds.
   - QID fingersticks
   #  AMS:
   Unknown recent baseline. Likely secondary to s/p CVA in [**2109**], s/p
   traumatic SDH x 2, significant hypernatremia, and infection.  Head CT
   showed no acute process.
   - IVF boluses to correct hypernatremia
   - Continue donepezil
   - vanco/cefepime/levo for infection
   # Hypocalcemia:
   Corrected Ca of 7.3 this AM.
   - Replete and recheck Ca on PM lytes
   #  Thrombocytopenia:
   Unknown baseline.  Platelet count most recent was 137 on [**3-15**]. Is 93
   this AM. DIC labs negative yesterday for signs of DIC.
   - Follow-up peripheral smear
   - Recheck PLT on PM labs
   - Minimize offending meds
   - Obtain baseline PLT count from [**Hospital 590**] rehab
   # Anemia:
   Unclear baseline. Down slightly to 31.4 from 35.5 at admission. Not
   iron deficient by labs (ferritin 1478 and FeSat = 44%).
   - Trend HCT
   - Guiaic stools
   # Troponin leak:
   When afebrile and s/p 5L NS, HR has fallen to 40s.  No prior EKG for
   comparison but no evidence of ACS.  Likely demand ischemia in setting
   of infection and tachcardia. Troponin at presentation was 0.07 and was
   0.05 this AM.
   - Check troponin this afternoon to complete 24 hour rule-out.
   #  Sacral decubitis ulcer:
   - Wound care via nursing
   - MD to observe this PM
   ICU Care
   Nutrition:  Nutren 2.0 (Full) - [**2115-3-24**] 11:04 PM 20 mL/hour
   (nutrition consult pending)
   Glycemic Control:  SSI
   Lines:
   18 Gauge - [**2115-3-24**] 05:30 PM
   20 Gauge - [**2115-3-24**] 05:30 PM
   Arterial Line - [**2115-3-24**] 11:46 PM
   Multi Lumen - [**2115-3-25**] 01:45 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: No prophylaxis indicated, on ranitidine
   FULL CODE.  Confirmed with daughter, [**Name (NI) 2112**], who is the legal
   guardian.  Also confirmed with daughter, [**Name2 (NI) 6622**] [**Name (NI) **].
   Communication: Wife (chinese speaking only), daughters [**Name (NI) 2112**] and
   [**Name2 (NI) **]-ling [**Name (NI) **], Ph [**Telephone/Fax (1) 6623**] (who is the primary medical caregiver).
   [**Doctor Last Name **]-Ling can be reached on her cell phone [**Telephone/Fax (1) 6624**] as a last
   resort, but she does not know how to check voicemail so do not leave
   messages.
   Disposition: ICU observation this AM with possible call-out to floor
   this PM if continues to improve. PCP is [**First Name8 (NamePattern2) 6654**] [**Name9 (PRE) 6655**].

2115-03-26 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - called out to floor, Vt code at 7pm before transfer to floor, no
   shock given, pt recovered pulse on own at initiation of CPR.  Post
   arrest EKG without ST elevations
   - likely episodes of atrial tachycardia with baseline possible
   junctional rhythm.  plan cardiology evaluation
   - plan for echo [**3-26**].
   - RLE U/S negative for DVT as source of underlying cellulitis
   Allergies:
   Haldol (Oral) (Haloperidol)
   Unknown;
   Penicillins
   Unknown;
   Augmentin (Oral) (Amox Tr/Potassium Clavulanate)
   Unknown;
   Last dose of Antibiotics:
   Cefipime - [**2115-3-24**] 08:56 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2115-3-26**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.1
   HR: 57 (44 - 100) bpm
   BP: 115/56(71) {88/46(60) - 124/68(82)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 65 Inch
    CVP: 14 (14 - 14)mmHg
   Bladder pressure: 16 (16 - 16) mmHg
   Total In:
                                                                  4,125 mL
                                                                    776 mL
   PO:
   TF:
                                                                    682 mL
                                                                    245 mL
   IVF:
                                                                  2,693 mL
                                                                     31 mL
   Blood products:
   Total out:
                                                                    756 mL
                                                                    245 mL
   Urine:
                                                                    756 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,369 mL
                                                                    531 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///22/
   Physical Examination
   General: nonverbal, responds to pain
   HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear
   Neck: supple, no LAD
   Lungs: CTAB anteriorly
   CV: Heart sounds essentially inaudible while patient
s overlying
   son[**Name (NI) 979**] respirations
   Abdomen: BS+, soft, NT, ND, no rebound tenderness or guarding, PEG
   present with exudate around tube, but without expanding erythema from
   PEG site
   Ext: RLE with erythema, warmth, swelling from thigh to groin; however,
   erythema does not track across groin to sacrum
   Sacrum: + 5cm x 4cm eschar
   Neuro: opens eyes, does not track
   Labs / Radiology
   98 K/uL
   11.2 g/dL
   142 mg/dL
   1.0 mg/dL
   22 mEq/L
   3.7 mEq/L
   28 mg/dL
   129 mEq/L
   155 mEq/L
   34.1 %
   9.9 K/uL
        [image002.jpg]
                             [**2115-3-24**]  05:45 PM
                             [**2115-3-25**]  01:11 AM
                             [**2115-3-25**]  04:09 AM
                             [**2115-3-25**]  09:02 AM
                             [**2115-3-25**]  02:47 PM
                             [**2115-3-25**]  06:34 PM
                             [**2115-3-26**]  03:28 AM
   WBC
   14.0
   10.9
   9.9
   Hct
   35.5
   31.4
   34.1
   Plt
   102
   93
   98
   Cr
   1.5
   1.2
   1.1
   1.1
   1.1
   1.0
   TropT
   0.07
   0.05
   0.04
   0.03
   0.03
   TCO2
   20
   Glucose
   [**Telephone/Fax (3) 6664**]63
   210
   142
   Other labs: PT / PTT / INR:13.9/32.7/1.2, CK / CKMB /
   Troponin-T:574/5/0.03, ALT / AST:18/19, Alk Phos / T Bili:66/0.5,
   Differential-Neuts:83.5 %, Lymph:11.4 %, Mono:2.9 %, Eos:1.9 %,
   Fibrinogen:611 mg/dL, Lactic Acid:1.1 mmol/L, Albumin:2.4 g/dL, LDH:213
   IU/L, Ca++:7.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   This is an 87 yo M s/p CVA, nonverbal, with HTN, type 2 DM who presents
   with fever to 106, likely secondary to extensive LE cellulitis.
   Additionally has hypernatremia and acute renal failure likely secondary
   to dehydration.
   #   Fever / Leukocytosis:
   Likely attributed to cellulitis. Patient with significant warmth and
   and erythema over right lower extremity at presentation. Now with
   decrease in WBC from 14 to 10.9 and has been afebrile following
   admission. Despite cellulitis being most likely cause of fever and
   leukocytosis, pneumonia (given chest CT) and peri-PEG infection (given
   purulent drainage around PEG). RLE U/S negative as source of
   fever/cellulitis.  CXR without evidence of PNA, likely atelectasis at
   LLL.
   - Continue Vanc, cefepime
   - d/c levo
   - Follow-up blood cultures
 currently negative
   - Follow-up wound cultures from PEG site
 GM stain GPC/GNR
   - RLE doppler negative for DVT as source of cellulitis
   - follow fever curve.  Remains afebrile
   #  Hypotension / Bradycardia:
   Hypotension likely secondary to poor PO intake over several weeks in
   addition to sepsis from infection (likely cellulitis). Does not appear
   to be linked to bradycardia (baseline HR in low 50s) at this time;
   however, will continue to monitor.  BP stable while in MICU.
   - IVF boluses as needed
   - Hold antihypertensives (lisinopril, amlodipine, flomax) and baclofen
   # VT code:
   Patient with episode of pulseless/unresponsive VT on [**3-25**] 7PM, code
   called, no shock delivered, CPR initiated but stopped immediately after
   initiation due to pt spontaneous recovery of pulse.  Awake and
   responsive afterwards, post-code EKG without ST elevations, appears to
   be intermittent atrial tachy with baseline bradycardia, troponin/CK
   continued trend downward since admission.
   - Cardiology consult
   - Echo today
   - Cont telemetry
   #  Hypernatremia:
   Significant hypernatremia likely reflects ongoing infection and poor PO
   intake over the course of several days to week. Initially received NS
   for rehydration. Now that pressures are maintained without need for
   frequent boluses, will hold on further IVF and manage hypernatremia
   with free water via PEG.  Trending downward slowly.
   - Free water flushes through PEG
   - cont daily electrolytes check
   #  [**Last Name (un) **]:
   Creatinine rose after getting 5L NS in ED and in MICU. Has fallen
   slightly to 1.1 upon 0900 labs this AM.  Likely from profound
   dehydration and possible sepsis in setting of cellulitis.  Creatinine
   trended downward to normal over course of rehydration.
   - Follow-up Cr with ongoing hydration via PEG and daily electrolytes
   checks
   # Hyperglycemia:
   Patient is a type 2 diabetic.  No evidence of DKA.  Likely elevated in
   setting of infection.  Taken off insulin gtt without complications.
   FSBG trending into acceptable range in sliding scale and lantus.
   - Lantus + HISS and uptitrate doses as needed. Will set lantus at 14 U
   tonight to cover increased tube feeds.
   - QID fingersticks
   #  AMS:
   Unknown recent baseline. Likely secondary to s/p CVA in [**2109**], s/p
   traumatic SDH x 2, significant hypernatremia, and infection.  Head CT
   showed no acute process.  Mental status improved over course of MICU
   stay with hydration and treatment of infection.
   - Continue donepezil
   - vanco/cefepime for infection
   # Hypocalcemia:
   Corrected Ca of 7.3 this AM.  Remained stable without issues
   - Replete and recheck Ca on PM lytes
   #  Thrombocytopenia:
   Unknown baseline.  Platelet count most recent was 137 on [**3-15**]. Is 93
   this AM, stable in 90
s. DIC labs negative yesterday for signs of DIC.
   - Follow-up peripheral smear
   - Cont to follow plts.  Unlikely DIC at this point.
   # Anemia:
   Unclear baseline. Down slightly to 31.4 from 35.5 at admission. Not
   iron deficient by labs (ferritin 1478 and FeSat = 44%).
   - Trend HCT, stable
   - Guiaic stools
   # Troponin leak:
   When afebrile and s/p 5L NS, HR has fallen to 40s.  No prior EKG for
   comparison but no evidence of ACS.  Likely demand ischemia in setting
   of infection and tachcardia. Troponin at presentation was 0.07 and was
   0.05 this AM.
   - Continued downward trend of troponin post-VT code, unlikely MI
   #  Sacral decubitis ulcer:
   - Wound care via nursing
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2115-3-25**] 07:13 PM 40 mL/hour.  Will have PEG tube
   evaluation for concern that tubing is too large for connectors.
   Glycemic Control:
   Lines:
   18 Gauge - [**2115-3-24**] 05:30 PM
   20 Gauge - [**2115-3-24**] 05:30 PM
   Multi Lumen - [**2115-3-25**] 01:45 AM will plan to d/c central line today.
   Will order PICC line.
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  will plan to call pt out to floor today.  Rehab screen
   today.  Will d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **]-med.